US04490374
6,7-Dimethoxy-5-amino-4-methyl-2(1H)quinazolinone
A solution of 13 equivalents of FeSO4.7H2O in water (6 parts) is heated to 95° C. A slurry of 1 equivalent of 6,7-dimethoxy-5-nitro-4-methyl-2(1H)quinazolinone in water (800 ml) at 80° C. is added and the resulting yellow mixture is heated at 98°-100° C. for 15 minutes. Ammonium hydroxide (13 eq) is added to the mixture dropwise over a 15 minute period, maintaining the temperature at 98°-100° C. The resulting black reaction mixture is stirred at 98°-100° C. for 30 minutes, the hot mixture is filtered and the insoluble black residue is washed with hot water. The brownish filtrate is extracted with chloroform. The solvent is removed in vacuo to give a dark brown semisolid crude product, which is chromatographed on a silica gel column. Recrystallization of the crude product from ethyl alcohol affords purified product.

reactant | 6,7-dimethoxy-5-nitro-4-methyl-2(1H)quinazolinone | 1 equivalent | COC=1C(=C2C(=NC(NC2=CC1OC)=O)C)[N+](=O)[O-] | C11H11N3O5
reactant | Ammonium hydroxide | 13 eq | [OH-].[NH4+]
solvent | water | O | H2O
solvent | water | 800 ml | O | H2O
product | 6,7-Dimethoxy-5-amino-4-methyl-2(1H)quinazolinone | COC=1C(=C2C(=NC(NC2=CC1OC)=O)C)N | C11H13N3O3
